US03957761
In the manner given in Example 27, 2',5-dichloro-2-[3-[(diisopropylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone is heated in ethanol with hydrazine hydrate to give 8-chloro-1-[(diisopropylamino)-methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 2',5-dichloro-2-[3-[(diisopropylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN(C(C)C)C(C)C)=O | C31H29Cl2N5O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-[(diisopropylamino)-methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C(C)C)C(C)C)C3=C(C=CC=C3)Cl)C1 | C23H25Cl2N5
